US06680317B2
d) N-(2-Chlorophenyl)-N′-[4-chloro-3-(N″,N″-dimethylaminosulfonyl)phenyl]cyanoguanidine
Following the general procedure for cyanoguanidine formation outlined in example 12, N-(2-chlorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]carbodiimide (300 mg, 0.6 mmol), cyanamide (100 mg, 2.4 mmol) and N,N-diisopropylethylamine (94 mg, 0.72 mmol) were reacted, followed by desilylation with Cesium fluoride (110 mg, 0.72 mmol) to form the desired product (129 mg, 50%). EI-MS m/z 428.0 (M+). 1H NMR (DMSO-d6) δ 2.86 (s, 6H), 7.2 (d, 1H), 7.32 (t, 1H), 7.36 (t, 1H), 7.43 (d, 1H), 7.51 (d, 1H), 7.57 (d, 1H), 8.98 (s, 1H), 9.18 (s, 1H), 10.51 (s, 1H).

reactant | cyanoguanidine | C(#N)NC(=N)N | C2H4N4
reactant | N-(2-chlorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]carbodiimide | 0.6 mmol, 300 mg | ClC1=C(C=CC=C1)N=C=NC1=C(C(=C(C=C1)Cl)S(=O)(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C21H27Cl2N3O3SSi
reactant | cyanamide | 2.4 mmol, 100 mg | N#CN | CH2N2
reactant | N,N-diisopropylethylamine | 0.72 mmol, 94 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Cesium fluoride | 0.72 mmol, 110 mg | [F-].[Cs+]
product | N-(2-Chlorophenyl)-N′-[4-chloro-3-(N″,N″-dimethylaminosulfonyl)phenyl]cyanoguanidine | 129 mg, 50% | ClC1=C(C=CC=C1)N(C(=N)NC1=CC(=C(C=C1)Cl)S(=O)(=O)N(C)C)C#N | C16H15Cl2N5O2S
